US04859761
N-cyano-N'-cyclohexyl-N"-phenylguanidin
A solution of 1.8 g N-cyclohexyl-N'-phenylcarbodiimide [prepared in accordance with Tetrahedron Letters 26, 1661 (1985) in 20 ml of 1,2-dichloroethane is reacted with 0.42 g of cyanamide and the reaction mixture is worked up as described in Example 1. The viscous oily crude product is chromatographed on silica gel (elution with a 4:1 mixture of methylene chloride/diethyl ether), affording a crystalline product which melts at 147°-147.5° C. (recrystallisation from ethyl acetate).

reactant | N-cyclohexyl-N'-phenylcarbodiimide | 1.8 g | C1(CCCCC1)N=C=NC1=CC=CC=C1 | C13H16N2
reactant | cyanamide | 0.42 g | N#CN | CH2N2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | N-cyano-N'-cyclohexyl-N"-phenylguanidin | C(#N)NC(=NC1=CC=CC=C1)NC1CCCCC1 | C14H18N4
